US06812228B2
Preparation of 9-Methoxy-3-methyl-2-propyl-11,12-dihydro-3H,6aH,13H-6-oxa-3,12a-diaza-benzo[a]cyclopent[h]anthracene-1-carboxylic acid ethyl ester (Scheme 1)
By following the general procedure of Example 2 for the preparation of 9-methoxy-2-propyl-11,12-dihydro-3H,6αH,13H-6-oxa-3,12α-diaza-benzo[a]cyclopent[h]anthracene-1-carboxylic acid ethyl ester, 4-(dimethylamino-methyl)-5-hydroxy-1-methyl-2-propyl-1H-indole-3-carboxylic acid ethyl ester (2.1 g, 6.6 mmol) was reacted with 6-methoxy-3,4-dihydro-isoquinoline (1.005 g, 6.6 mmol) to give the desired product (0.22 g, 8%). MP 150-151° C. MS: 435.2 (M+1+).

reactant | 4-(dimethylamino-methyl)-5-hydroxy-1-methyl-2-propyl-1H-indole-3-carboxylic acid ethyl ester | 6.6 mmol, 2.1 g | C(C)OC(=O)C1=C(N(C2=CC=C(C(=C12)CN(C)C)O)C)CCC | C18H26N2O3
reactant | 6-methoxy-3,4-dihydro-isoquinoline | 6.6 mmol, 1.005 g | COC=1C=C2CCN=CC2=CC1 | C10H11NO
product | 9-Methoxy-3-methyl-2-propyl-11,12-dihydro-3H,6aH,13H-6-oxa-3,12a-diaza-benzo[a]cyclopent[h]anthracene-1-carboxylic acid ethyl ester | 0.22 g, 8% | C(C)OC(=O)C1=C(N(C=2C1=C1CN3CCC4=C(C3OC1=CC2)C=CC(=C4)OC)C)CCC | C26H30N2O4
